US07312350B2
2.0 g of 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole together with 18.5 mg of palladium acetate, 73.2 mg of di(tert-butyl)phenylphosphine, 60.3 mg of tetrabutylammonium bromide, 10 mg of hydroquinone, 1.8 g of dicyclohexylmethylamine and 23 ml of dimethylacetamide are placed in a stainless steel autoclave. 2.6 g of vinyl chloride are condensed into this autoclave at low temperature and the autoclave is subsequently closed. It is subsequently heated at 140° C. for 20 hours. It is then cooled and depressurized and the reaction mixture is dewatered and worked up by extraction. 1.53 g (83% of theory) of 4-(2-chloroethenyl)-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole are isolated.

reactant | 4-bromo-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 2.0 g | BrC=1C(=NN(C1C)C)C(F)(F)F | C6H6BrF3N2
reactant | dicyclohexylmethylamine | 1.8 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
reactant | vinyl chloride | 2.6 g | C(=C)Cl | C2H3Cl
catalyst | tetrabutylammonium bromide | 60.3 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 18.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | di(tert-butyl)phenylphosphine | 73.2 mg | C(C)(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
catalyst | hydroquinone | 10 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethylacetamide | 23 ml | CC(=O)N(C)C | C4H9NO
product | 4-(2-chloroethenyl)-1,5-dimethyl-3-(trifluoromethyl)-1H-pyrazole | 1.53 g, 83% | ClC=CC=1C(=NN(C1C)C)C(F)(F)F | C8H8ClF3N2
